US07214681B2
NEt3 (278 μL, 2.0 mmol) and tert-butyl piperazine-1-carboxylate (373 mg, 2.0 mmol) were added to a stirred solution of 4-[1-(5-chlorothiazol-2-ylcarbamoyl)-2-(tetrahydropyran-4-yl)ethyl]benzenesulfonyl chloride (Preparation 60, 449 mg, 1.0 mmol) in anhydrous DMAc (4 mL). The mixture was stirred for 16 h, then the solvents were removed in vacuo. The residue was dissolved in EtOAc (50 mL) to give a solution that was washed with H2O (15 mL), saturated aqueous Na2CO3 (15 mL), and brine (15 mL), before being dried (MgSO4). Filtration, solvent evaporation, and column chromatography (IH-EtOAc, 7:3 to 1:1) gave tert-butyl 4-{4-[1-(5-chlorothiazol-2-ylcarbamoyl)-2-(tetrahydropyran-4-yl)ethyl]benzenesulfonyl}piperazine-1-carboxylate: m/z (ES+)=599.5 [M+H]+. A solution of this compound (189 mg, 316 μmol) in CH2Cl2-TFA (1:1, 7 mL) was stirred for 1 h. The solvents were evaporated off under reduced pressure, then the residue was triturated with Et2O. The product was collected, washed with Et2O, and air-dried to furnish the trifluoroacetate salt of the title compound: RTA=2.64 min; m/z (ES+)=499.3 [M+H]+.

reactant | NEt3 | 2.0 mmol, 278 μL | CCN(CC)CC | C6H15N
reactant | tert-butyl piperazine-1-carboxylate | 2.0 mmol, 373 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 4-[1-(5-chlorothiazol-2-ylcarbamoyl)-2-(tetrahydropyran-4-yl)ethyl]benzenesulfonyl chloride | 1.0 mmol, 449 mg | ClC1=CN=C(S1)NC(=O)C(CC1CCOCC1)C1=CC=C(C=C1)S(=O)(=O)Cl | C17H18Cl2N2O4S2
solvent | DMAc | 4 mL | CC(=O)N(C)C | C4H9NO
product | tert-butyl 4-{4-[1-(5-chlorothiazol-2-ylcarbamoyl)-2-(tetrahydropyran-4-yl)ethyl]benzenesulfonyl}piperazine-1-carboxylate | ClC1=CN=C(S1)NC(=O)C(CC1CCOCC1)C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C26H35ClN4O6S2
